US06933322B2
N-[5-(Benzothiazol-2-ylmethoxy)-naphthalen-2-yl]-C,C,C-trifluoro-methanesulfonamide
2-amino-5-(Benzothiazol-2-ylmethoxy)-naphthalene (0.77 g) and triethylamine (0.35 mL) dissolved in dichloromethane (75 mL). Cool in an acetone and dry ice bath. Add triflic anhydride (0.42 mL) and allow mixture to warm to room temperature overnight. Partition between water and ethyl acetate. Separate and dry with magnesium sulfate. Concentrate at rotovap to provide the title compound (0.450 g, 40%) as a beige solid, m.p. 190-192° C. 1H NMR (DMSO-d6, 400 MHz): δ 5.82 (s, 2H), 7.17 (d, 1H), 7.46-7.49 (m, 3H), 7.50-7.58 (m, 2H), 7.78 (s, 1H), 8.05 (d, 1H), 8.14 (d, 1H), 8.32 (d, 1H). MS [EI, m/z]: 438 [M]+. Anal. Calcd. for C19H13F3N2O3S2: C, 52.05; H, 2.99; N, 6.39. Found: C, 52.21; H, 3.02; N, 6.15.

reactant | 2-amino-5-(Benzothiazol-2-ylmethoxy)-naphthalene | 0.77 g | NC1=CC2=CC=CC(=C2C=C1)OCC=1SC2=C(N1)C=CC=C2 | C18H14N2OS
reactant | triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | dry ice | C(=O)=O | CO2
reactant | triflic anhydride | 0.42 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | N-[5-(Benzothiazol-2-ylmethoxy)-naphthalen-2-yl]-C,C,C-trifluoro-methanesulfonamide | 0.450 g, 40% | S1C(=NC2=C1C=CC=C2)COC2=C1C=CC(=CC1=CC=C2)NS(=O)(=O)C(F)(F)F | C19H13F3N2O3S2
